* C:\Users\newtonis\InformesTC\TP3\EJ3\tp3 ej3\ej3 tp3 nada ideal.asc
R3 N002 N001 1k
R4 N001 N005 3k3
R6 N005 N006 3k3
R7 N006 N008 1k
R1 N003 N002 1k
R2 Vout N003 100k
R8 N004 N008 1k
R9 N009 N004 100k
R5 N005 Vfeed 10
V1 vcc+ 0 10
V2 0 vcc- 10
V3 v2 0 SINE(0 1 1K) AC 1
XU1 N004 N003 +Vcc -Vcc Vout TL084
XU2 N009 0 +Vcc -Vcc Vfeed TL084
XU3 v2 N006 +Vcc -Vcc N008 TL084
XU4 v2 N001 +Vcc -Vcc N002 TL084
.ac dec 100000 100 10000meg
.inc opamp.sub
.inc C:\Users\newtonis\InformesTC\TP3\EJ3\tp3 ej3\TL084.301
.backanno
.end
